US04616086
Ethyl 4-{2-[1-(3,5-di-tert.-butyl-4-hydroxycinnamoyl)-piperazin-4-yl]-ethyl}-phenylacetate
A solution of 14.0 g. (51 mmole) 3,5-di-tert.-butyl-4-hydroxycinnamic acid and 17.7 g. (51 mmole) ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate dihydrochloride in 150 ml. anhydrous pyridine is mixed dropwise, with ice cooling, with a solution of 3.57 g. (26 mmole) phosphorus tribromide in 20 ml. pyridine. Stirring is continued for 2 hours, with ice cooling, and the reaction mixture then left to stand for 12 hours at ambient temperature, whereafter it is poured on to ice and extracted with ethyl acetate. The extracts are dried and evaporated, the residue is taken up in diethyl ether and the hydrochloride is precipitated with hydrogen chloride-containing diethyl ether. After recrystallisation from a mixture of ethanol and water, to which has been added some concentrated hydrochloric acid, there are obtained 14.5 g. (47%) of hydrochloride of the desired compound; m.p. 111°-113° C.

reactant | 3,5-di-tert.-butyl-4-hydroxycinnamic acid | 51 mmole | C(C)(C)(C)C=1C=C(C=CC(=O)O)C=C(C1O)C(C)(C)C | C17H24O3
reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-phenylacetate dihydrochloride | 51 mmole | Cl.Cl.N1(CCNCC1)CCC1=CC=C(C=C1)CC(=O)OCC
reactant | phosphorus tribromide | 26 mmole | P(Br)(Br)Br | Br3P
reactant | hydrochloride | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-{2-[1-(3,5-di-tert.-butyl-4-hydroxycinnamoyl)-piperazin-4-yl]-ethyl}-phenylacetate | C(C)(C)(C)C=1C=C(C=CC(=O)N2CCN(CC2)CCC2=CC=C(C=C2)CC(=O)OCC)C=C(C1O)C(C)(C)C | C33H46N2O4
